US05679622
6-Fluoropyridine-2,3-dicarboxylic anhydride
A mixture of 36.7 g (0.2 mol) of 6-chloropyridine-2,3-dicarboxylic anhydride, 17.4 g (0.3 mol) of potassium fluoride and 1 g of 18-crown-6 in 200 ml of propionitrile were stirred for 10 hours while refluxing. After cooling, the reaction mixture was filtered with suction and the residue was washed with methylene chloride. The filtrate was evaporated down under reduced pressure and stirred with a 2:1 methyl tert-butyl ether/pentane mixture, and the product was filtered off with suction and dried. 25.3 g (76% of theory) of the title compound of melting point 106° C. (decomposition) were obtained.

reactant | 6-chloropyridine-2,3-dicarboxylic anhydride | 0.2 mol, 36.7 g | ClC1=CC=C2C(=N1)C(=O)OC2=O | C7H2ClNO3
reactant | potassium fluoride | 0.3 mol, 17.4 g | [F-].[K+]
reactant | 18-crown-6 | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | propionitrile | 200 ml | C(CC)#N | C3H5N
product | 6-Fluoropyridine-2,3-dicarboxylic anhydride | FC1=CC=C2C(=N1)C(=O)OC2=O | C7H2FNO3
